US07211335B2
Synthesis of 2-(2-tert-butyl-6-{2-[5-(4-diphenylamino-phenyl)-thiophene-2-yl]-vinyl}-pyran-4-ylidene)-malononitrile
As shown in the following reaction 3, 0.72 g (3.37 mmol) of (2-(2-tert-butyl-6-methyl-pyran-4-ylidene)-malononitrile and 1 g (2.81 mmol) of 5-(4-diphenylamino-phenyl)-thiophene-2-carbaldehyde were added into 50 ml of ethanol, and 0.28 g (3.37 mmol) of piperidine was added thereto. The reaction solution was heated for 24 hours while refluxing. After cooling the reaction solution, the precipitated red solid was filtered, and recrystallized with ethanol to obtain 0.79 g of the target compound (Yield 50%).

reactant | 2-(2-tert-butyl-6-methyl-pyran-4-ylidene)-malononitrile | C(C)(C)(C)C=1OC(=CC(C1)=C(C#N)C#N)C | C13H14N2O
reactant | 5-(4-diphenylamino-phenyl)-thiophene-2-carbaldehyde | 2.81 mmol, 1 g | C1(=CC=CC=C1)N(C1=CC=C(C=C1)C1=CC=C(S1)C=O)C1=CC=CC=C1 | C23H17NOS
reactant | piperidine | 3.37 mmol, 0.28 g | N1CCCCC1 | C5H11N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-(2-tert-butyl-6-{2-[5-(4-diphenylamino-phenyl)-thiophene-2-yl]-vinyl}-pyran-4-ylidene)-malononitrile | 0.79 g, Yield 50% | C(C)(C)(C)C=1OC(=CC(C1)=C(C#N)C#N)C=CC=1SC(=CC1)C1=CC=C(C=C1)N(C1=CC=CC=C1)C1=CC=CC=C1 | C36H29N3OS
